US05962718
Preparation of diethyl(trimethylsilylcyclopentadienyl)borane
To 5.44 g (18.1 mmol) of colorless neat trimethyl(trimethylsilylcyclopentadienyl)tin is added 1.89 g (2.28 ml, 18.1 mmol) of colorless chlorodiethylborane at once at room temperature. An intense yellow color immediately appears. The mixture is stirred for 2 h and then subjected to fractional distillation. At a bath temperature of 60° C., the major part of the chlorotrimethylstannane can be separated off as the first fraction.

reactant | trimethyl(trimethylsilylcyclopentadienyl)tin | 18.1 mmol, 5.44 g | C[Sn](C1(C=CC=C1)[Si](C)(C)C)(C)C
reactant | chlorodiethylborane | 18.1 mmol, 2.28 ml, 1.89 g | ClB(CC)CC | C4H10BCl
product | diethyl(trimethylsilylcyclopentadienyl)borane | C(C)B(C1(C=CC=C1)[Si](C)(C)C)CC | C12H23BSi
